US09403818B2
Preparation of ethyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A′ from ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (50 mg, 0.15 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (45.2 mg, 0.19 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (48 mg, 77%).

reactant | ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.15 mmol, 50 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C16H15ClFNO3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 0.19 mmol, 45.2 mg | CC1(OB(OC1(C)C)C=1C=C2C=NNC2=CC1)C | C13H17BN2O2
product | ethyl 8-(1H-indazol-5-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 48 mg, 77% | N1N=CC2=CC(=CC=C12)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C23H20FN3O3
